Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None this admission

 
History of Present Illness:
___ M was in his usual state of health
until yesterday, when he noted developing acute onset lower
abdominal pain at approximately 6 pm. He initially thought it 
was
due to eating too much fried food, but his pain got 
progressively
worse, therefore he presented to ___ for eval. He
did not endorse any fevers, chills, nausea, or vomiting.
Continues to pass flatus and had BM yesterday. Denies any bloody
stools. At ___, he underwent cross sectional imaging 
notable
for ? SMA dissection, although he did not undergo a formal CTA.
He was transferred to ___ for further eval. Upon assessment in
the ED, pt states that his pain is somewhat improved, although
still approximately ___. Denies any other acute complaints. 

 
Past Medical History:
VASCULAR HISTORY: None. 
PAST MEDICAL HISTORY: Gastric ulcer
 
Social History:
___
Family History:
FAMILY HISTORY: F/H of AAA. Father with AAA, no hx connective
tissue disorder
 
Physical Exam:
Neuro/Psych: Oriented x3, Affect Normal, NAD. 
Neck: No masses, Trachea midline. 
Nodes: No clavicular/cervical adenopathy. 
Heart: Regular rate and rhythm. 
Lungs: Normal respiratory effort. 
Gastrointestinal: Non distended, No masses, No
hepatosplenomegally, No hernia, Tender to very deep
palpaltion lower midline. 
Rectal: Not Examined. 
Extremities: No skin changes. 

 
Pertinent Results:
___ 06:50AM BLOOD WBC-6.5 RBC-4.66 Hgb-14.5 Hct-43.7 MCV-94 
MCH-31.1 MCHC-33.2 RDW-13.1 RDWSD-45.3 Plt ___
___ 06:50AM BLOOD ___ PTT-75.0* ___
___ 06:50AM BLOOD ___ PTT-75.0* ___
___ 06:50AM BLOOD Glucose-114* UreaN-10 Creat-0.8 Na-141 
K-4.1 Cl-105 HCO3-25 AnGap-11
___ 06:45AM BLOOD ALT-51* AST-29 AlkPhos-72 TotBili-0.4
___ 06:50AM BLOOD Calcium-9.0 Phos-3.4 Mg-2.1
 
Brief Hospital Course:
Mr. ___ was seen in the ED after a CT at ___ showed a 
questionable SMA dissection. While at ___ he underwent a CTA 
which more clearly showed and confirmed the SMA dissection. He 
was provided analgesia, made NPO, started on a heparin drip, and 
admitted for observation. Throughout his day of admission his 
pain improved and he no longer required any additional pain 
control. By the morning of hospital day 1 he reported zero pain 
so he was started on a regular diet and his heparin was 
discontinued. He tolerated his diet well and he was deemed fit 
for discharge. At the time of discharge he was ambulating 
independently, voiding, passing gas, and reported zero pain. He 
was started on an aspirin and statin and provided with 
prescriptions for those medications. He will be seen in clinic 
in one month for a repeat CTA and outpatient follow up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Superior mesenteric artery dissection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital for 
observation after your CT scan showed a superior mesenteric 
artery (SMA) dissection. You were monitored for pain and other 
symptoms and are now ready to be discharged from the hospital.   
Please follow the recommendations below to ensure a speedy and 
uneventful recovery.

Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

 
Followup Instructions:
___